US07635715B2
Step A: Preparation of 2-(3-Iodopyridin-2-yl)acetonitrile
To a solution of n-butyllithium (11 mL, 27 mmol) in dry THF (150 mL) at −78° C., was added dry ACN (2 mL, 29 mmol). The resulting mixture was stirred at −78° C. for 45 minutes to generate a suspension of lithionitrile. 2-Fluoro-3-iodopyridine (5 g, 22 mmol) was added as a solution in 10 mL of THF, and the yellow mixture was allowed to warm slowly to room temperature. By the time that the temperature reached −19° C., the reaction had turned dark green. After 35 minutes (reaction temperature=−7° C.), TLC (0-30% EtOAc/hexane) showed a new lower spot and a trace of starting material. LCMS showed the desired mass ((M+H)+=245). The reaction was quenched with saturated NH4Cl and extracted with EtOAc. The combined organic layers were washed 3 times with saturated NH4Cl and brine, and then dried over MgSO4 and concentrated in vacuo to give a dark solid. The resulting product was purified by silica flash chromatography (0-50% EtOAc/hexane and then 10% MeOH/DCM) to give the title compound as a dark yellow solid (1.8 g, 33%). MS (m/z)=245 (M+H)+. Calculated for C7H5IN2 244.0.

reactant | n-butyllithium | 27 mmol, 11 mL | C(CCC)[Li]
reactant | ACN | 29 mmol, 2 mL | C(C)#N | C2H3N
reactant | 2-Fluoro-3-iodopyridine | 22 mmol, 5 g | FC1=NC=CC=C1I | C5H3FIN
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(3-Iodopyridin-2-yl)acetonitrile | 1.8 g, 33% | IC=1C(=NC=CC1)CC#N | C7H5IN2
